US09315521B2
2-{[(2-fluoropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
3-(bromomethyl)-2-fluoropyridine, 6-methyl-2-sulfanylpyrimidin-4-ol (1.42 g, 10 mmol) and triethylamine (1.54 mL, 11 mmol) were mixed in ethanol (50 mL). The mixture was stirred at room temperature for 2 hours. After evaporation, water (100 mL) was added. The suspension was filtered and washed with water and ethyl acetate to provide pure titled product (1.8 g, 72% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.17 (s, 3H), 4.35 (s, 2H), 6.00 (br, 1H), 7.28 (m, 1H), 8.05 (m, 1H), 8.11 (m, 1H); M+252.

reactant | 3-(bromomethyl)-2-fluoropyridine | BrCC=1C(=NC=CC1)F | C6H5BrFN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 10 mmol, 1.42 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 11 mmol, 1.54 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-{[(2-fluoropyridin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.8 g, 72% yield | FC1=NC=CC=C1CSC1=NC(=CC(=N1)O)C | C11H10FN3OS
